US04290963
One gram of 17α-acetoxy-12α-chloro-1α,2α-methylene-4,6-pregnadiene-3,20-dione is treated analogously to Example 1 in "Dowtherm" for 1 hour at 280° C. and worked up. Recrystallization from isopropyl ether yields 500 mg of 12α-chloro-1α,2α-methylene-4,6,16-pregnatriene (61% of theory).

reactant | 17α-acetoxy-12α-chloro-1α,2α-methylene-4,6-pregnadiene-3,20-dione | One gram | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=CC4=CC([C@H]5[C@@H]([C@]4(C)[C@H]3C[C@@H]([C@]12C)Cl)C5)=O | C24H29ClO4
reactant | Dowtherm | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 12α-chloro-1α,2α-methylene-4,6,16-pregnatriene | 500 mg, 61% | Cl[C@H]1C[C@@H]2[C@]3([C@@H]4[C@H](CC=C3C=C[C@H]2[C@@H]2CC=C(CC)[C@@]12C)C4)C | C22H29Cl
